US09340527B2
To a solution of ethyl 1-((6-hydroxynaphthalen-2-yl)methyl)piperidine-4-carboxylate (2.43 g, 8 mmol, 1.0 eq) in the co-solvent t-butanol/2-butanone (40 mL/20 mL) was added cesium carbonate (5.0 g, 16 mmol, 2.0 eq). The mixture was stirred at 80° C. for 10 min and then trans-4-ethylcyclohexyl methanesulfonate (3.2 g, 16 mmol, 2.0 eq) was introduced. The suspension was stirred at 80° C. under N2 for 15 h. Then the reaction mixture was concentrated and the residue was purified by silica gel column chromatography (EtOAc/PE=1:5) to give ethyl 1-((6-(cis-4-ethylcyclohexyloxy)naphthalen-2-yl)methyl)piperidine-4-carboxylate as a slight yellow solid (1.6 g, yield: 46%). ESI-MS (M+H)+: 424.3. 1H NMR (400 MHz, CD3OD) δ: 7.63-7.56 (m, 3H), 7.30 (dd, J=8.4, 1.6 Hz, 1H), 7.10 (d, J=2.4 Hz, 1H), 7.03 (dd, J=8.8, 2.4 Hz, 1H), 4.68-4.66 (m, 1H), 4.01 (q, J=7.2 Hz, 2H), 3.66 (s, 2H), 2.85-2.80 (m, 2H), 2.25-2.22 (m, 1H), 2.11-2.08 (m, 2H), 1.96-1.92 (m, 2H), 1.81-1.77 (m, 2H), 1.65-1.45 (m, 6H), 1.33-1.30 (m, 2H), 1.22-1.12 (m, 3H), 1.13 (t, J=7.2 Hz, 3H), 0.82 (t, J=7.2 Hz, 3H).

reactant | ethyl 1-((6-hydroxynaphthalen-2-yl)methyl)piperidine-4-carboxylate | 8 mmol, 2.43 g, 1.0 eq | OC=1C=C2C=CC(=CC2=CC1)CN1CCC(CC1)C(=O)OCC | C19H23NO3
reactant | cesium carbonate | 16 mmol, 5.0 g, 2.0 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | trans-4-ethylcyclohexyl methanesulfonate | 16 mmol, 3.2 g, 2.0 eq | CS(=O)(=O)O[C@@H]1CC[C@H](CC1)CC | C9H18O3S
solvent | t-butanol 2-butanone | 40 mL | C(C)(C)(C)O.CC(CC)=O
product | ethyl 1-((6-(cis-4-ethylcyclohexyloxy)naphthalen-2-yl)methyl)piperidine-4-carboxylate | 1.6 g, yield: 46% | C(C)[C@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)CN1CCC(CC1)C(=O)OCC | C27H37NO3
